US06083952
a) 2,3-Dichloro-6-iodobenzoic acid
n-Butyllithium (1.45M solution in hexane, 19.4 mmol, 13.4 ml) was added dropwise to a stirred solution of diisopropylamine (21.4 mmol, 3.0 ml) in THF (90 ml) at 0° C. After 30 minutes, the solution was cooled to -78° C. and a solution of 1,2-dichloro-4-iodobenzene (5.30 g, 19.4 mmol) in THF (10 ml) was added dropwise. After 10 minutes, solid carbon dioxide was added cautiously and the mixture allowed to warm to room temperature over 16 h. The mixture was diluted with water and extracted twice with ethyl acetate. The aqueous layer was acidified with dilute aqueous hydrochloric acid and then extracted twice with ethyl acetate. The extracts were dried over sodium sulphate and evaporated to give the title compound as a yellow solid (3.59 g). 300 MHz 1H NMR (d6 -DMSO) 11.5 (1H, br.s), 7.82 (1H, d, J 8.4 Hz), 7.44 (1H, d, J 8.4 Hz).

reactant | n-Butyllithium | 19.4 mmol, 1.45M, 13.4 ml | C(CCC)[Li]
reactant | diisopropylamine | 21.4 mmol, 3.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1,2-dichloro-4-iodobenzene | 19.4 mmol, 5.30 g | ClC1=C(C=C(C=C1)I)Cl | C6H3Cl2I
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,3-Dichloro-6-iodobenzoic acid | 3.59 g | ClC1=C(C(=O)O)C(=CC=C1Cl)I | C7H3Cl2IO2
